US06756378B2
To a stirred solution of 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetic acid (456 mg, 1.45 mmol) and ethyl 4-(3-methylamino-1-propyl)benzoate (220 mg, 1.45 mmol) were added EDC.HCl (417 mg, 2.16 mmol), HOBt (cat.), and DMAP (catalytic amount) in DMF (10 mL), and the resulting mixture was stirred overnight. The mixture was diluted with EtOAc (300 mL), washed with brine, dried over MgSO4, and evaporated. The residue was chromatographed on silica-gel with CHCl3—EtOH (10:1) to give 503 mg (71%) ethyl 4-[3-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl-N-methylamino]-1-propyl]benzoate as a yellow oil. MS (FAB) m/z 518(M+H)+.

reactant | 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetic acid | 1.45 mmol, 456 mg | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)O | C17H18N2O4
reactant | ethyl 4-(3-methylamino-1-propyl)benzoate | 1.45 mmol, 220 mg | CNCCCC1=CC=C(C(=O)OCC)C=C1 | C13H19NO2
reactant | EDC.HCl | 2.16 mmol, 417 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | ethyl 4-[3-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl-N-methylamino]-1-propyl]benzoate | 503 mg, 71% | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)N(C)CCCC1=CC=C(C(=O)OCC)C=C1 | C30H35N3O5
